US07408065B2
N-5-Quinolinyl-cyclopentanepropanamide
Prepared according to the method of example 18, using 5-quinolinamine (250 mg) and cyclopentanepropanoic acid (270 mg). Purification (HPLC, Symmetry—0.1% aqueous trifluoroacetic acid/acetonitrile) followed by recrystallisation from methanol/ethyl acetate gave the title compound as a colourless solid (112 mg).

reactant | 5-quinolinamine | 250 mg | N1=CC=CC=2C(=CC=CC12)N | C9H8N2
reactant | cyclopentanepropanoic acid | 270 mg | C1(CCCC1)CCC(=O)O | C8H14O2
product | N-5-Quinolinyl-cyclopentanepropanamide | 112 mg | N1=CC=CC2=C(C=CC=C12)NC(CCC1CCCC1)=O | C17H20N2O
